US04622407
A solution of (±)-ethyl 5-(1-methyl-5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-2-carboxylate (0.50 g) in methanol (10 ml) and 10% sodium hydroxide (10 ml) were stirred at room temperature for 2 hours. A saturated sodium chloride solution was added to the solution and the methanol removed under reduced pressure. The aqueous solution was acidified with 3N hydrochloric acid with stirring and cooling and the resulting precipitate collected by filtration. The solids were washed with water, air dried, and recrystallized from ethyl acetate-hexane to give (±)-5-(1-methyl-5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid (0.45 g, 98% yield) m.p. 182°-184° C.

reactant | (±)-ethyl 5-(1-methyl-5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-2-carboxylate | 0.50 g | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CC(C2)C(=O)OCC)C | C18H22N2O3S
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | (±)-5-(1-methyl-5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 0.45 g, 98% yield | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CCC2C(=O)O)C | C16H18N2O3S
